US05981438
4-Amino-3-trifluoromethyl-benzonitrile (0.9 g) was added to a tetrahydrofuran solution (25 ml) of sodium hydride (0.5 g; 60% in oil) at room temperature. The mixture was stirred at room temperature for about 10 minutes until the generation of hydrogen gas was ceased. Then, 5-chloro-1-phenyltetrazole (0.9 g) was added thereto and the mixture was stirred for 2 hours. The reaction solution was poured into 100 ml of ice water and the organic layer was distilled off under reduced pressure. Activated carbon was added to the aqueous layer and the aqueous layer was filtered. Then, the pH of the filtrate was adjusted to 2-3 with concentrated hydrochloric acid. The precipitated crystals were collated by filtration and washed with water and n-hexane to obtain 1-phenyl-5-(4-cyano-2-trifluoromethylanilino)tetrazole (1.5 g).

reactant | 4-Amino-3-trifluoromethyl-benzonitrile | 0.9 g | NC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-chloro-1-phenyltetrazole | 0.9 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-phenyl-5-(4-cyano-2-trifluoromethylanilino)tetrazole | 1.5 g | C1(=CC=CC=C1)N1N=NN=C1NC1=C(C=C(C=C1)C#N)C(F)(F)F | C15H9F3N6
